US04375475
Step C. Preparation of 2'-Methoxy-[1,1'-biphenyl]-2-carbonyl Chloride.
2'-Methoxy-[1,1'-biphenyl]-2-carboxylic acid (32 g., 100 mmole) was dissolved in thionyl chloride (40 ml) and the solution was refluxed for 3 hours. The solution was evaporated to provide the title compound.

reactant | 2'-Methoxy-[1,1'-biphenyl]-2-carboxylic acid | 100 mmole, 32 g | COC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O | C14H12O3
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 2'-Methoxy-[1,1'-biphenyl]-2-carbonyl Chloride | COC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)Cl | C14H11ClO2
